US04060636
To a suspension of 3-(3-acetylthioureido)-4-aminobenzophenone (1.1 g.) in acetone (15 ml.) is added carbomethoxy isothiocyanate (0.41 g.). The mixture is heated to reflux and then is stirred at room temperature for 18 hours. The crude product is collected by filtration, washed with acetone and ether and then dried to afford 0.6 g. (40% yield) of 3-(3-acetylthioureido)-4-(3-carbomethoxythioureido)benzophenone, m.p. 203°-204° C., dec.

reactant | 3-(3-acetylthioureido)-4-aminobenzophenone | 1.1 g | C(C)(=O)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N)=S | C16H15N3O2S
reactant | carbomethoxy isothiocyanate | 0.41 g | C(=O)(OC)N=C=S | C3H3NO2S
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3-(3-acetylthioureido)-4-(3-carbomethoxythioureido)benzophenone | 40% yield | C(C)(=O)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NC(=S)NC(=O)OC)=S | C19H18N4O4S2
